US06465504B1
3,5-Bis(2-hydroxyphenyl)-1-(2,2,2-trifluoroethyl)-1H-[1,2,4]triazole
1.38 g of 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one boiled under reflux for 0.5 h with 1.6 of 2,2,2-trifluorethylhydrazine in 20 ml of ethanol. The mixture is cooled, poured onto water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated on a rotary evaporator. The residue is crystallized from methanol/water. After drying, 3,5-bis(2-hydroxyphenyl)-1-(2,2,2-trifluoroethyl)-1H-[1,2,4]triazole remains as colorless crystals of m.p. 154-156° C.

reactant | 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | 1.38 g | OC1=C(C=CC=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO3
reactant | 2,2,2-trifluorethylhydrazine | FC(CNN)(F)F | C2H5F3N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3,5-Bis(2-hydroxyphenyl)-1-(2,2,2-trifluoroethyl)-1H-[1,2,4]triazole | OC1=C(C=CC=C1)C1=NN(C(=N1)C1=C(C=CC=C1)O)CC(F)(F)F | C16H12F3N3O2
